US08487108B2
A solution of (R)-benzyl 1-(4-chlorobutanamido)-3-hydroxypropan-2-ylcarbamate (3.9 g, 11.9 mmol) in DMF was cooled to 0° C., followed by the addition of NaH (0.72 g, 17.9 mmol). The mixture was stirred at rt for 4 h. DMF was removed under high vacuum, and the residue was taken up in EtOAc, washed with 1 N HCl, saturated NaHCO3, NaCl, dried over Na2SO4, and concentrated to give the crude product, which was purified by column chromatography to give (R)-benzyl 1-hydroxy-3-(2-oxopyrrolidin-1-yl)propan-2-ylcarbamate (1.1 g, yield 33%). 1H NMR (CDCl3, 400 MHz) δ 7.39-7.27 (m, 5H), 5.45 (d, 1H), 5.10 (d, 1H), 4.70 (s, 2H), 3.72 (m, 1H), 3.54-3.40 (m, 4H), 3.20-3.17 (m, 1H), 2.40 (t, 2H), 2.07 (t, 2H).

reactant | (R)-benzyl 1-(4-chlorobutanamido)-3-hydroxypropan-2-ylcarbamate | 11.9 mmol, 3.9 g | ClCCCC(=O)NC[C@H](CO)NC(OCC1=CC=CC=C1)=O | C15H21ClN2O4
reactant | NaH | 17.9 mmol, 0.72 g | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (R)-benzyl 1-hydroxy-3-(2-oxopyrrolidin-1-yl)propan-2-ylcarbamate | 1.1 g, yield 33% | OC[C@@H](CN1C(CCC1)=O)NC(OCC1=CC=CC=C1)=O | C15H20N2O4
